Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine / Demerol / Valium / Versed / Percocet
 
Attending: ___.
 
Chief Complaint:
pain
 
Major Surgical or Invasive Procedure:
left IJ placed in the ED on ___ and removed on ___

 
History of Present Illness:
___ yo with somatization d/o, question of Munchhausen's, PUD, 
depression who presented with chest pain and palpitations and 
now complains of RUQ that radiates to her leg and her chest. 
Says this pain is chronic on and off for a long time. She was 
discharged from ___ yesterday for the same symptoms and then 
came to ___ ED.  
.  
In the ED, initial vital signs were T 99, BP 129/93, HR 136, RR 
18, O2sat 96% RA. She had a left IJ placed for access and was 
given 2L IVF. She was given multiple mg of IV dilaudid and 
toradol 30mg IV x1. Her vital signs on leaving the ED were T 
98.6, BP 166/61, HR 98, RR 16 and o2sat 98% RA. She was noted to 
be sleeping but when someone woke her she would say she had ___ 
pain.  
.  
Currently, still having the pain. No nausea or vomiting. She 
says it is worse with food but also says that it can wake her up 
from sleep. She ate breakfast -hash brown potatoes included with 
no problems. She denies fevers, chills. No current diarrhea or 
constipation. No current SOB or palpitations. She has been 
taking a lot of motrin at home she says. She also reports a long 
history of reflux for which she takes protonix.  

 
Past Medical History:
1. h/o SVT/?___ s/p ___ 
___ , ___ and ___. Per records s/p cath ___ showing  
mild plaque in one artery.  
2. Glucose intolerance, no dx of DM  
3. Broken wrist on the left, status post surgery.  
4. History of goiter. Had US done and technetium scan in ___  
showing inactive thyroid nodules. TSH 1.5 ___. h/o saddle PE treated at ___ in ___. full 
hypercoag panel negative  
6. PUD, GERD  
7. Obesity--wt 226 for last several months  
8. Depression  
9. Anxiety--Used hypnotism is the past which helped  
10. Bulemia  
11. DVT ___ in relation to left leg tendon injury  
12. ? ___'s behavior per ___ hospitalist note ___  

 
Social History:
___
Family History:
Father: first MI in mid ___, h/o vtach, afib, T2DM  
Son: AV nodal reentry  
Aunt: ___ CA at age ___  
 
Physical Exam:
General: lying still when I walked in and then rocking in bed as 
we are talking  
HEENT: MMM, anicteric sclera, non injected conjunctiva, PERRL, 
EOMI  
CV: RRR no m/r/g appreciated  
Lungs: CTAB no w/r/r  
Abdomen: +BS, obese, soft, no rebound or guarding, non tender in 
all quadrants with stethescope but then mild tenderness in RUQ 
and epigastric area on palpation.  
Ext: no e/c/c  

 
Pertinent Results:
___ 07:20PM BLOOD WBC-6.3 RBC-3.44* Hgb-10.7* Hct-30.9* 
MCV-90 MCH-31.0 MCHC-34.6 RDW-13.3 Plt ___
___ 07:20PM BLOOD Glucose-102 UreaN-6 Creat-1.0 Na-139 
K-3.7 Cl-107 HCO3-24 AnGap-12
___ 07:20PM BLOOD ALT-15 AST-23 CK(CPK)-193* AlkPhos-51 
TotBili-0.4
___ 07:00AM BLOOD CK(CPK)-173*
___ 07:20PM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD CK-MB-3 cTropnT-<0.01
___ 07:20PM BLOOD calTIBC-307 VitB12-274 Folate-14.1 
Ferritn-41 TRF-236
___ 07:20PM BLOOD Iron-79
___ 07:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:30PM URINE Color-Straw Appear-Clear Sp ___
___ 08:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:30PM URINE bnzodzp-NEG barbitr-NEG opiates-POS 
cocaine-NEG amphetm-NEG mthdone-NEG
H pylori negative

___ CXR: IMPRESSION: Left internal jugular central venous 
catheter tip within the mid SVC. No pneumothorax. 

___ VQ scan: IMPRESSION: Normal V/Q study. No change 
compared to ___. Normal study rules out recent pulmonary 
embolism. 

___ Abdominal U/S: IMPRESSION: 
Normal abdominal ultrasound with no acute process to account for 
the patient's abdominal pain. 

 
Brief Hospital Course:
___ yo with somatization d/o, question of Munchhausen's, PUD, 
depression and hypothyroidism who presented with chest pain and 
palpitations and now complains of RUQ that radiates to her leg 
and her chest.  
.  
# abdominal pain: This could be her GERD or PUD given her 
history. She reports taking protonix at home and peptobismal. 
Abdominal ultrasound was normal ruling out gallbladder disease. 
U/A was negative for blood making a kidney stone highly 
unlikely. Lipase was negative making pancreatitis unlikely. 
Could be endometriosis.  Also somatization could play a role 
especially given her history. In addition, at the end of her 
stay, she reported that she recently experienced a trauma at 
work and had a lot of anxiety associated with this. We spent 
significant time discussing that she should follow up with 
social work or psychiatry regarding these issues and the 
importance of the mind body connection.
.  
# chronic chest pain: extensive work up in the past with nothing 
found. ED did a VQ scan which was negative and CXR was clear. No 
events on telemetry and she ruled out for AMI with CE. Could be 
GERD related.  
.  
# normocytic anemia: at baseline with normal iron studies, B12 
and folate. Likely related to heavy menses.  
.  
# hypothyroidism: continued synthroid  
.  
# sinus tachycardia: While on the floor, she remained in a 
normal sinus rhythm on telemetry. EKGs normal. She has long h/o 
sinus tach/atrial tach been worked up by EP extensively.  
.  
# PPX: heparin SQ, bowel reg  
.  
# Code: full  

 
Medications on Admission:
levothyroxine 75mcg daily  
metoprolol 75mg TID  
aspirin 325mg daily  
ativan 0.5mg prn  
vit C  
acuberry  
protonix  
motrin  

 
Discharge Medications:
1. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
2. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety, nausea.
Disp:*10 Tablet(s)* Refills:*0*
3. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): do not take with any other medications or over the 
counter medications. Wait 30mins.  
4. Metoprolol Tartrate 25 mg Tablet Sig: Three (3) Tablet PO TID 
(3 times a day).  
5. Alum-Mag Hydroxide-Simeth  Oral
6. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
musculoskeletal pain
GERD
anxiety
somatization
hypothyroidism

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted with pain. You did not have a pulmonary 
embolism (clot in your lung). Your abdominal ultrasound was 
normal.

You likely have some musculoskeletal pain. Please take 
acetaminophen (tylenol) to help with your pain but do not exceed 
4 grams a day. You should avoid NSAIDS or ibuprofen if your 
reflux/GERD is bad.

You should follow up with psychology or psychiatry to work on 
the mind body connection to treat your pain and also to treat 
your anxiety. 

You should follow up with your PCP in the next week. 

You should call your PCP or go to the ED if you have worsening 
symptoms, vomit blood, fevers over 102, bleed from anywhere or 
have other symptoms which are concerning to you.
 
Followup Instructions:
___